US08445530B2
2-{[5-Acetyl-4-(2-m-tolyl-ethoxy)-thiophene-2-carbonyl]-amino}-indane-2-carboxylic acid
The title compound was synthesized by reaction of 5-acetyl-4-hydroxy-thiophene-2-carboxylic acid methyl ester with 2-(3-methylphenyl)-ethanol in analogy to step 1 of example 1, subsequent ester hydrolysis in analogy to example 2, reaction with 2-amino-indane-2-carboxylic acid methyl ester hydrochloride in analogy to step 1 of example 15, and ester hydrolysis in analogy to example 2.

reactant | 5-acetyl-4-hydroxy-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=C(C1)O)C(C)=O | C8H8O4S
reactant | 2-(3-methylphenyl)-ethanol | CC=1C=C(C=CC1)CCO | C9H12O
reactant | 2-amino-indane-2-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1(CC2=CC=CC=C2C1)N
product | 2-{[5-Acetyl-4-(2-m-tolyl-ethoxy)-thiophene-2-carbonyl]-amino}-indane-2-carboxylic acid | C(C)(=O)C1=C(C=C(S1)C(=O)NC1(CC2=CC=CC=C2C1)C(=O)O)OCCC=1C=C(C=CC1)C | C26H25NO5S
